2121-05-13 09:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No airway compromise overnight.
   CTA NECK showed large salivary stone with infection underneath.
   Allergies:
   Erythromycin Base
   Hepatic toxicit
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2121-5-13**] 05:06 AM
   Vancomycin - [**2121-5-13**] 08:10 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2121-5-13**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-5-13**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 103 (96 - 107) bpm
   BP: 158/95(110) {139/76(99) - 171/113(121)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,672 mL
   PO:
             TF:
   IVF:
   1,672 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,675 mL
   Urine:
   1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, no tongue distplacement, no
   stridor, no difficulty with secretions
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responding normally
   Labs / Radiology
   173 K/uL
   11.3 g/dL
   140 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   12 mg/dL
   106 mEq/L
   139 mEq/L
   33.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2121-5-13**]  04:31 AM
   WBC
   9.3
   Hct
   33.5
   Plt
   173
   Cr
   1.0
   TropT
   <0.01
   Glucose
   140
   Other labs: PT / PTT / INR:28.4/150.0/2.9, CK / CKMB /
   Troponin-T:69//<0.01, Ca++:8.8 mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   CTA Neck:
   CONCLUSION:
   Extensive artifact from dental amalgam limits evaluation.
   1. Enlarged enhancing left submandibular gland with two calculi in the
   whartons duct and extensive surrounding inflammatory change in the
   subcutaneous tissues. The appearances are consistent with left
   submandibular
   sialadenitis secondary to obstructive sialoliths.
   2. Several borderline lymph nodes at all stations within the neck as
   described above.
   Assessment and Plan
 .H/O DYSPHAGIA
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ACUTE PAIN
   Assessment and Plan: This is a 58 year old female with a history of
   SLE, APA w/ PE on coumadin p/w 4 days of left facial swelling and found
   to have a large obstructing salivary duct stone with gland inflamation.
   .
   # Left Facial Swelling:  Patient with left submandibular gland
   infection and large [**Location (un) 7930**] duct stone.  The patient is at risk for
   Ludwig's angina given rate of progression of infection (over 1 day) and
   given that infection already involves left submandibular space, and
   sublingual space.  Has been seen by ENT in ED, without evidence of
   airway compromise.  No evidence of laryngal swelling on scope.  Has
   received antibiotics in ED and one time dose of dexamethasone.  No
   current plans for surgical intervention, but ENT will assess in the
   morning.
   - cont vanc/unasyn for GN, GP, and anderobic coverage and follow up
   gland cultures
   - [**Doctor Last Name 7931**] wedges and salivary massage to help stimulate secretions
   - HOB elevated at 30 degrees
   - fiberoptic airway [**Last Name (LF) 7932**], [**First Name3 (LF) **] assess for acute decomensation for
   need for nasal fiberoptic airways vs. trach.  Will monitor for
   increased salivation, dysphagia, or stridor.
   - will dose addition IV dex if e/o airway compromise.
   -  Humdified shovel mask
   -  NPO and aggressive IV hydration
   -  holding coumadin but putting on heparin bridge in case goes to OR.
   Will need to reverse with FFP if emergent surgery planned.
   - f/u ENT recs
   - IV morphine for pain control.
   .
   # APLS:  Pt w/ hx of PE and renal vein thromosis, managed on coumadin
   as outpatient.  Pt with INR of 2.5 on presentation.  Holding coumadin,
   but starting on heparin bridge.  Will need to be reveressed if emergent
   surgery planned.
   .
   # Lupus:  Pt w/ hx of lupus, managed by Dr. [**Last Name (STitle) 7933**].  No evidence of
   acute flare.  No reason to suspect any correlation with other
   autoimmune process like Sojourn's.
   - cont cellcept and hydrochlorquine, but will d/w ID early in morning
   need for holding immunosuppresion in setting of serious,
   life-threatnening infection
   .
   #  Glomerularnephritis:  Significantly improved on cellcept.  Grade 3
   membranous glomerularnephritis with Cr at baseline at 1.1.
   - cont cellcept
   - cont lisinopril.
   .
   #  Depression: cont prozac
   .
   # GERD: cont PPI
   .
   # FEN: IVF, replete electrolytes, NPO except meds
   .
   # Prophylaxis: Systemically anticoagulated, SCDs
   .
   # Access: peripherals
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-5-13**] 12:20 AM
   22 Gauge - [**2121-5-13**] 02:37 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan, except his comments
   regarding ENT were from overnight and they have since reevaluated.
   PMH, SH, FH and ROS are unchanged from admission except where noted
   above or below.
   58-year-old woman with left facial swelling (infection and duct stone)
   in pt with complicated medical hx, including SLE, SLE nephritis, APLS
   (PE/renal vein clots) on warfarin.  Seen by ENT with intact airway but
   ENT exam this morning concern for vocal cord edema.
   Subjectively pt feels much better, more able to swallow, speak. [**Last Name **]
   problem with secretions, breathing.
   Exam: SBP 106, 92, 99% on humidified face tent. Opens mouth but can't
   protrude tongue due to pain. well appearing. Exquisitely TTP left
   mandibular soft tissue area. CTA, distant HS RRR. abd soft.
   Vanc and unasyn
   continue salivary gland massage
   dexamethasone given, no further steroids at this point
   IV morphine
   taking PO meds
   Other issues per ICU resident
s note above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2121-5-13**] 15:17 ------

2121-05-14 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2121-5-13**] 09:28 PM
 URINE CULTURE - At [**2121-5-13**] 10:00 PM
 FEVER - 101.6
F - [**2121-5-13**] 08:00 PM
   [**2121-5-14**]
   - ENT came by in afternoon and left recs to transfer to floor if airway
   stable this am, continue IV abx, continue QID [**Doctor Last Name **] wedges and WID
   massages. Pt wants the stone taken out as inpatient but ENT wants it
   taken out as out-patient. Gobal is attending (unpagable) phone number:
   [**Telephone/Fax (1) 7955**].
   - pt with inc pain in afternoon. Increased frequency of morphine dose
   -Spiked temp 101.6 at 8pm. Sent cultures (Blood and urine).
   Allergies:
   Erythromycin Base
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2121-5-13**] 08:06 PM
   Ampicillin/Sulbactam (Unasyn) - [**2121-5-14**] 06:00 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2121-5-14**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-5-14**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 82 (82 - 106) bpm
   BP: 122/65(79) {111/59(72) - 177/123(129)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,097 mL
                                                                  1,134 mL
   PO:
             TF:
   IVF:
                                                                  4,097 mL
                                                                  1,134 mL
   Blood products:
   Total out:
                                                                  3,425 mL
                                                                      0 mL
   Urine:
                                                                  3,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    672 mL
                                                                  1,134 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: L face and neck swollen and tender with
   massage
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   No Stridor
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   175 K/uL
   10.6 g/dL
   122 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   104 mEq/L
   138 mEq/L
   32.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2121-5-13**]  04:31 AM
                             [**2121-5-14**]  01:51 AM
   WBC
   9.3
   10.6
   Hct
   33.5
   32.1
   Plt
   173
   175
   Cr
   1.0
   1.3
   TropT
   <0.01
   Glucose
   140
   122
   Other labs: PT / PTT / INR:23.5/108.5/2.3, CK / CKMB /
   Troponin-T:69//<0.01, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 58 year old female with a history of
   SLE, APA w/ PE on coumadin p/w 4 days of left facial swelling and found
   to have a large obstructing salivary duct stone with gland inflamation.
   .
   # Left Facial Swelling:  Patient with left submandibular gland
   infection and large [**Location (un) 7930**] duct stone.  Has been seen by ENT this
   morning who thought airway was a little worse and recommended decadron
   10mg IV Q8H X 3 doses. Will re-evaluate in the afternoon and if
   worsening will take to OR for drainage.
   - cont vanc/unasyn for GN, GP, and anderobic coverage and follow up
   gland cultures
   - [**Doctor Last Name 7931**] wedges and salivary massage to help stimulate secretions
   - HOB elevated at 30 degrees
   -  Humdified shovel mask
   -  Will allow some foods today until NPO past MN for potentially OR in
   am
   -  holding coumadin but putting on heparin bridge in case goes to OR.
   Will hold hep gtt 6hours prior to procedure if needs it.
   - f/u ENT recs in pm
   - IV morphine for pain control.
   .
   # APLS:  Pt w/ hx of PE and renal vein thromosis, managed on coumadin
   as outpatient.
   - Holding coumadin, but starting on heparin bridge.
   .
   # Lupus:  Pt w/ hx of lupus, managed by Dr. [**Last Name (STitle) 7933**].  No evidence of
   acute flare.  No reason to suspect any correlation with other
   autoimmune process like Sojourn's.
   - cont prednisone and hydrochlorquine, but will d/w ID early in morning
   need for holding immunosuppresion in setting of serious,
   life-threatnening infection
   .
   #  Glomerularnephritis:  Significantly improved on cellcept.  Grade 3
   membranous glomerularnephritis with Cr at baseline at 1.1.
   - cont Prednisone
   - cont lisinopril.
   .
   #  Depression: cont prozac
   .
   # GERD: cont PPI
   .
   # FEN: IVF, replete electrolytes, liquids and meds today
   .
   # Prophylaxis: Systemically anticoagulated, SCDs
   .
   # Access: peripherals
   .
   # Code: FULL
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   ENT eval yest afternoon and thought exam improved, but on fiberoptic
   exam VC appeared more edematous, expressed pus from submandibular
   abscess this morning.
   101.6 8pm yesterday. 130/70 86 97% on face tent. Appears well, talking,
   taking POs, breathing easily.
   meds: unasyn, vanc, heparin gtt, lisinopril, fluoxetine,
   hydroxychloroquine, ppi, dexamthasone 10mg IV q8, prednisone 10 po qd,
   morphine prn for pain, received 12mg since 12am.
   Cr 1.0--> 1.3, I/O 4L/3.4L
   Submandibular gland infection and ductal stone. Observing in ICU for
   risk of airway compromise. Complicated medical history with SLE, APA,
   PE requiring lifelong anticoagulation but no active medical issues.
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2121-5-14**] 18:38 ------